US07223891B2
Perfluorobutane-1,4-bis-sulphonic acid (11.0 g, ˜30 mmol) was mixed with P2O5 (40 g, ˜10 eq) and sand. The mixture was heated to 140–180° C. and distilled under reduced pressure with dry-ice cooling collector to afford crude product (5.12 g). Redistilation gives pure perfluorobutane-1,4-bis-sulphonic acid anhydride.

reactant | Perfluorobutane-1,4-bis-sulphonic acid | ˜30 mmol, 11.0 g | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4H2F8O6S2
reactant | P2O5 | 40 g, ˜10 eq | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | perfluorobutane-1,4-bis-sulphonic acid anhydride | FC1(C(C(C(S(=O)(=O)OS1(=O)=O)(F)F)(F)F)(F)F)F | C4F8O5S2
